Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ not-anticoagulated with mechanical fall while going to the 
bathroom at night. She hit the counter top and toilet seat on 
her left side. She denies hitting her head, losing 
consciousness, or any other injuries. Moving, breathing, and 
talking all exasperate pain. She does not take acetaminophen, 
aspirin, or anticoagulants. 
 
Past Medical History:
PMH:
Osteoporosis  
HLD
Depression
GERD
Complicated pneumonia (___)

PSH:
none
 
Social History:
___
Family History:
Denies family history of gastrointestinal disorders and cancers. 
Denies family history of other cancers.
 
Physical Exam:
Admission Physical Exam:
97.6 62 147/85 18 96% RA 
General: awake, alert, GCS 15, uncomfortable
HEENT: NCAT, EOMI, anicteric
Heart: RRR, NMRG
Lungs: CTAB, normal excursion, no respiratory distress, tender 
to
palpation over left chest
Back: tender to palpation over left posterior back, no bruising
Abdomen: soft, NT, ND, no mass, no hernia
Neuro: strength intact/symmetric, sensation intact/symmetric
Extremities: WWP, no CCE, no tenderness, 2+ B ___
Skin: no rashes/lesions/ulcers
Pyschiatric: normal judgment/insight, normal memory, normal
mood/affect

Discharge Physical Exam:
VS: T: 98.1, BP: 143/78, HR: 81, RR: 18, Os:98% RA
GENERAL: A+Ox3, NAD
CV: RRR
PULM: CTA b/l, no wheezes, rhonchi or respiratory distress
EXTREMITIES: trace edema b/l ___, warm, well-perfused 
 
Pertinent Results:
___ 05:53AM   GLUCOSE-122* UREA N-19 CREAT-0.6 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-23 ANION GAP-18
___ 05:53AM   ALT(SGPT)-29 AST(SGOT)-25 ALK PHOS-64 TOT 
BILI-0.2
___ 05:53AM   LIPASE-62*
___ 05:53AM   ALBUMIN-4.0
___ 05:53AM   WBC-10.9* RBC-4.29 HGB-12.7 HCT-39.9 MCV-93 
MCH-29.6 MCHC-31.8* RDW-14.5 RDWSD-49.9*
___ 05:53AM   NEUTS-71.2* ___ MONOS-6.0 EOS-1.4 
BASOS-0.4 IM ___ AbsNeut-7.75* AbsLymp-2.16 AbsMono-0.65 
AbsEos-0.15 AbsBaso-0.04
___ 05:53AM   PLT COUNT-312
___ 05:53AM   ___ PTT-24.9* ___

IMAGING:

___: Chest (PA&LAT):
Increased density over the periphery and base of the left lung 
is likely due
to the pleural or extrapleural hematoma resulting from multiple 
left-sided rib fractures.

___: CT Chest:
1. Acute displaced fractures of the posterolateral left ___ 
ribs.  Left
___ rib fractures are completely displaced with bony 
overlap.
2. Associated pleural-based hematoma.
3. No pneumothorax.
4. Mild narrowing/posterior bowing of the upper thoracic 
trachea.  Recommend correlation with history of intubation or 
tracheomalacia.
5. Calcified right thyroid nodules, incompletely evaluated.  
Further
evaluation with a dedicated thyroid ultrasound is recommended on 
a nonurgent basis.

___: CXR:
In comparison with the study ___, there is little change 
in the
appearance of the multiple left rib fractures with associated 
pleural or
extrapleural hematoma.  No evidence of acute pneumothorax.

___: Chest (PA&LAT):
Unchanged left rib fractures and adjacent hematoma.

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female who presented to ___ on 
___ s/p mechanical fall and was found on CXR and CT Chest 
to have acute displaced fractures of the posterolateral left 
___ ribs, and a left pleural hematoma without evidence of 
pneumothorax.  The patient was admitted to the Acute Care 
Surgery service for pain control and monitoring of respiratory 
status.  

The patient had two repeat CXRs to evaluate for interval change 
and findings were reassuring.  On HD2, the patient worked with 
Physical Therapy who cleared the patient for home discharge.  
Occupational Therapy (OT)also worked with the patient and did 
not demonstrate any acute OT needs.  

The patient was alert and oriented throughout hospitalization; 
pain was managed with oral acetaminophen and oxycodone once 
tolerating a diet as well as a transdermal lidocane patch.  The 
patient remained stable from a cardiovascular standpoint; vital 
signs were routinely monitored. The patient remained stable from 
a pulmonary standpoint. Good pulmonary toilet, early ambulation 
and incentive spirometry were encouraged throughout 
hospitalization. The patient was written for a regular diet 
which was well tolerated. Patient's intake and output were 
closely monitored.  The patient's fever curves were closely 
watched for signs of infection, of which there were none. The 
patient's blood counts were closely watched for signs of 
bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.  As the patient is from 
___ and will be returning home, she agreed to make a 
follow-up appointment with her Primary Care Provider ___ ___ 
weeks. 

 
Medications on Admission:
alendronate 70, crestor 20, fluoxetine 40, omeprazole 20, 
restasis, trazodone 50
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain  
2. CYCLOSPORINE 0.05% OPHTH EMULSION 1 drop Other DAILY 
3. Docusate Sodium 100 mg PO BID 
please hold for loose stool  
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
4. FLUoxetine 40 mg PO DAILY 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
please apply for 12 hours over area of rib pain, then leave off 
for 12 hours 
RX *lidocaine 5 % 1 patch Daily Disp #*15 Patch Refills:*0
6. Omeprazole 20 mg PO DAILY 
7. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN pain 
do NOT drink alcohol or drive while taking this medication  
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*30 Tablet Refills:*0
8. Rosuvastatin Calcium 20 mg PO QPM 
9. Senna 8.6 mg PO BID:PRN constipation 
10. TraZODone 25 mg PO QHS:PRN insomnia 
once weaned off oxycodone, you may resume this medication at 
your home dosage 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left ___ displaced rib fractures and left pleural based hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You presented to the hospital after suffering a fall and were 
found to have multiple left rib fractures.  You were admitted 
for pain control and to monitor your breathing. You worked with 
occupational and physical therapy and have been cleared to be 
discharged home.  You are now medically cleared to be discharged 
home to continue your recovery.  Please note the following 
discharge instructions:

* Your injury caused left ___ rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___